US08198453B2
A solution of (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-5-fluorophenyl)methyl)piperidine-1-carboxylate (24 g, 0.062 mol) in dry CH2Cl2 (300 mL) and Et3N (31.4 g, 43 mL) was cooled to 0° C. in ice-water bath, a solution of methyl chloroformate (11.8 g, 0.124 mol) in dry CH2Cl2 (100 mL) was added dropwise. After addition, the reaction mixture was stirred for 1-2 h at 0-5° C. Water (200 mL) was added to quench the reaction. The aqueous layer was extracted with CH2Cl2 (3×100 mL), the combined organic layers were washed with 10% citric acid (2×80 mL) and brine, then dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by column chromatography to give (R)-tert-butyl 3-((R)-(3-chloro-5-fluorophenyl)(2-(methoxycarbonylamino)ethoxy)methyl)piperidine-1-carboxylate (19 g, 0.043 mol). 1H NMR (CD3OD) δ 7.17 (s, 1H), 7.16-7.08 (m, 1H), 7.07-7.00 (m, 1H), 4.20-4.00 (m, 2H), 3.90-3.78 (d, 1H), 3.61 (s, 3H), 3.28-3.20 (m, 2H), 2.92-2.68 (dd, 2H), 1.52-1.74 (m, 2H), 1.42 (s, 9H), 1.35-1.10 (m, 3H),

reactant | (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-5-fluorophenyl)methyl)piperidine-1-carboxylate | 0.062 mol, 24 g | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC(=C1)F)Cl | C19H28ClFN2O3
reactant | Et3N | 43 mL, 31.4 g | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 0.124 mol, 11.8 g | ClC(=O)OC | C2H3ClO2
reactant | Water | 200 mL | O | H2O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((R)-(3-chloro-5-fluorophenyl)(2-(methoxycarbonylamino)ethoxy)methyl)piperidine-1-carboxylate | 0.043 mol, 19 g | ClC=1C=C(C=C(C1)F)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCNC(=O)OC | C21H30ClFN2O5
